US06093731
A solution of ethyl 1-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl][2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino}cyclopentanecarboxylate in MeOH (5 ml), was heated to 75° C., NaOH solution (1 ml, 2N, 2 mmol) added, and the reaction stirred at 50° C. for 48 h. The cooled reaction mixture was concentrated in vacuo , to remove the MeOH, and the remaining aqueous solution acidifed to pH 6 using 1N HCl. The resulting precipitate was filtered, washed with water, and the filtrate extracted with EtOAc. The combined organic extracts were dried (MgSO4), and evaporated in vacuo to give 1-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl][2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino}cyclopentanecarboxylic acid (9 mg, 0.017 mmol) as a pale yellow solid.

reactant | ethyl 1-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl][2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino}cyclopentanecarboxylate | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N(C1(CCCC1)C(=O)OCC)CCOC1OCCCC1)NC(=N)N | C25H34ClN5O6S
reactant | NaOH | 2 mmol, 2N, 1 ml | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | 1-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl][2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino}cyclopentanecarboxylic acid | 0.017 mmol, 9 mg | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N(C1(CCCC1)C(=O)O)CCOC1OCCCC1)NC(=N)N | C23H30ClN5O6S
